US04634708
Example 5: trans-4,6,6a,7,8,12b-hexahydro-4,7-dimethylindolo[4,3-ab]phenanthridine
3 g of trans-4,6,6a,7,8,12b-hexahydro-7-methylindolo[4,3-ab]phenanthridine are dissolved in 60 ml of dimethylformamide. The solution is cooled to -25°, and mixed whilst stirring with 280 mg of a 55% sodium hydride dispersion. The resultant suspension is allowed to warm to 0° over the course of 40 mins., and then 0.81 ml of methyl iodide, dissolved in 10 ml of dimethylformamide, are added in drops. The black reaction solution is stirred for a further 1 hour at 0°, and the dimethylformamide is subsequently removed under a high vacuum. The residue of evaporation is taken up in methylene chloride/methanol=95/5, extracted with water, and the combined organic phases dried, filtered and concentrated. The residue of evaporation is chromatographed on silica gel with methylene chloride/methanol=98/2 (methylene chloride 10% saturated with NH3). The title compound which crystallises from the solvent mixture used for chromatography is thus obtained. After washing with ether and subsequent drying, it melts at 184°- 185°.

reactant | trans-4,6,6a,7,8,12b-hexahydro-7-methylindolo[4,3-ab]phenanthridine | 3 g | CN1[C@H]2CC=3C4=C([C@@H]2C2=CC=CC=C2C1)C=CC=C4NC3 | C19H18N2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.81 ml | CI | CH3I
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | trans-4,6,6a,7,8,12b-hexahydro-4,7-dimethylindolo[4,3-ab]phenanthridine | CN1C=C2C3=C([C@@H]4C5=CC=CC=C5CN([C@H]4C2)C)C=CC=C13 | C20H20N2
